US07338958B2
z) Production of (RS)-S-(2-methyl-4-nitrophenyl)-S-methyl sulfoximide
1.5 g (7.5 mmol) of (RS)-2-methyl-1-(methylsulfinyl)-4-nitrobenzene and 1.1 g (17.1 mmol) of sodium azide in 10.0 ml of CHCl3 are carefully mixed at 0° C. with 2.2 ml of concentrated sulfuric acid. The batch is heated first to room temperature and then to 45° C. while being stirred vigorously. It is stirred for 116 hours at this temperature. After cooling, it is mixed with water and extracted from DCM (2×). The aqueous phase is made basic with 2N NaOH solution and extracted from DCM. The combined organic phases are filtered through a Whatman filter and concentrated by evaporation. The crude product that is obtained is recrystallized from ethyl acetate. 1.3 g (6.1 mmol, corresponding to 81% of theory) of the product is obtained.

reactant | (RS)-2-methyl-1-(methylsulfinyl)-4-nitrobenzene | 7.5 mmol, 1.5 g | CC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)C | C8H9NO3S
reactant | sodium azide | 17.1 mmol, 1.1 g | [N-]=[N+]=[N-].[Na+]
reactant | sulfuric acid | 2.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | CHCl3 | 10.0 ml | C(Cl)(Cl)Cl | CHCl3
product | (RS)-S-(2-methyl-4-nitrophenyl)-S-methyl sulfoximide | CC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=N)C | C8H10N2O3S
